US05958952
4-[2-(chlorocarbonyl)ethyl]-1-[(ethoxycarbonyl)methyl]-piperidine-hydrochloride
To 1.46 g of 4-(2-carboxyethyl)-1-[(ethoxycarbonyl)methyl]-piperidine in 10 ml methylene chloride, is added 1 ml of saturated ethereal hydrochloric acid. 1.2 g of thionyl chloride are added and the mixture is stirred for 3 hours at ambient temperature. The reaction mixture is concentrated by evaporation and the residue is mixed twice with toluene and evaporated down again. The crude product is further reacted in Examples 1 and 2 without being purified.

reactant | 4-(2-carboxyethyl)-1-[(ethoxycarbonyl)methyl]-piperidine | 1.46 g | C(=O)(O)CCC1CCN(CC1)CC(=O)OCC | C12H21NO4
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | thionyl chloride | 1.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(chlorocarbonyl)ethyl]-1-[(ethoxycarbonyl)methyl]-piperidine-hydrochloride | Cl.ClC(=O)CCC1CCN(CC1)CC(=O)OCC | InChI=1S/C12H20ClNO3.ClH/c1-2-17-12(16)9-14-7-5-10(6-8-14)3-4-11(13)15;/h10H,2-9H2,1H3;1H
